US05055458
Bromotrimethylsilane (290 mg, 0.25 ml, 1.9 mmol) was added to a solution of 9-(1-diethoxyphosphorylmethoxy-3-hydroxyprop-2-oxy)guanine (74 mg, 0.19 mmol) in N,N-dimethylformamide (5 ml) and stirred for 4 hours at 20° C. After evaporation of the solvent, the residue was chromatographed using reverse-phase silica and eluted with water. The correct fractions were evaporated and the residue recrystallised from water-ethanol affording 9-(1-hydroxy-3-phosphonomethoxyprop-2-oxy)guanine (36 mg, 57%) as a white solid, m.p. >300° C.; λmax (H2O) 2.53 (ε13,100)nm; νmax (KBr) 3870, 1710, 1650, 1600, 1380, 1160, 1050 and 940 cm-1 ; δH [(CD3)2SO] 2.75-4.25(3H, v. br.s, D2O exchangeable, 3×OH), 3.61(2H, d, J4.7 Hz, CH2OH), 3.62(2H, d, J8.5 Hz, CH 2 P), 3.76(2H, d, J4.7 Hz, CH2OCH2P), 6.61(2H, br.s, D2O exchangeable, NH2), 7.89(1H, s, H-8), 10.65(1H, br.s, D2O exchangeable, NH); m/z (FAB+veIon) 3.36(MH+, 61%), 358(MNa+, 71%); Found C,31.11; H,4.47; N,20.76%; C9H14N5O7P.0.5H2O requires C,31.40; H,4.39; N,20.37%.

reactant | Bromotrimethylsilane | 1.9 mmol, 0.25 ml, 290 mg | Br[Si](C)(C)C | C3H9BrSi
reactant | 9-(1-diethoxyphosphorylmethoxy-3-hydroxyprop-2-oxy)guanine | 0.19 mmol, 74 mg | C(C)OP(=O)(OCC)COCC(CO)ON1C=2N=C(NC(C2N=C1)=O)N | C13H22N5O7P
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 9-(1-hydroxy-3-phosphonomethoxyprop-2-oxy)guanine | 36 mg, 57% | OCC(COCP(=O)(O)O)ON1C=2N=C(NC(C2N=C1)=O)N | C9H14N5O7P
